US07947738B2
(16-e) Tert-butyl(±)-[(1S,5R)-5-methyl-bicyclo[3.2.0]hept-3-en-6-ylidene]acetate
An anhydrous tetrahydrofuran solution (2 mL) of (±)-(1S,5R)-5-methylbicyclo[3.2.0]hept-3-en-6-one (800 mg, 6.55 mmol) was added dropwise with stirring under ice cooling to a reaction solution prepared in advance from an anhydrous tetrahydrofuran solution (10 mL) of tert-butyl dimethylphosphorylacetate (1.28 g, 6.55 mmol) and sodium hydride (>63% oil, 245 mg, 6.55 mmol), and the mixture was then stirred for 1 hour in this bath and further stirred at room temperature for 2 hours. The reaction solution was diluted with an aqueous citric acid solution, followed by extraction with ethyl acetate. The organic layer was washed with water, saturated aqueous sodium bicarbonate, and saturated saline and dried over anhydrous magnesium sulfate. Then, the solvent was distilled off under reduced pressure, and the obtained residue was purified by silica gel column chromatography to obtain the compound of interest as a colorless oil substance (389 mg).

reactant | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
reactant | (±)-(1S,5R)-5-methylbicyclo[3.2.0]hept-3-en-6-one | 6.55 mmol, 800 mg | C[C@@]12C=CC[C@H]2CC1=O | C8H10O
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | tert-butyl dimethylphosphorylacetate | 6.55 mmol, 1.28 g | CP(=O)(C)CC(=O)OC(C)(C)C | C8H17O3P
reactant | sodium hydride | 6.55 mmol, 245 mg | [H-].[Na+]
solvent | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
product | Tert-butyl(±)-[(1S,5R)-5-methyl-bicyclo[3.2.0]hept-3-en-6-ylidene]acetate | C[C@@]12C=CC[C@H]2CC1=CC(=O)OC(C)(C)C | C14H20O2
